US09376442B2
(1R*,3R*,4R*)-4-Azido-3-methylcyclohexanamine hydrochloride
tert-Butyl [(1R*,3R*,4R*)-4-azido-3-methylcyclohexyl]carbamate (example C10; 2.5 g; 10.0 mmol) is dissolved in THF (25.0 mL). After addition of HCl (4M solution in dioxane; 10.0 mL; 40.0 mmol) the reaction mixture is stirred at ambient temperature over night and gently refluxed for additional 6 hours. tert-BuOMe is added at ambient temperature, the precipitated product is collected by suction filtration, washed with several small portions of tert-BuOMe and dried under reduced pressure to yield 1.8 g of the title compound as colourless solid.

reactant | tert-Butyl [(1R*,3R*,4R*)-4-azido-3-methylcyclohexyl]carbamate | 10.0 mmol, 2.5 g | N(=[N+]=[N-])[C@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C12H22N4O2
reactant | HCl | 40.0 mmol, 4M, 10.0 mL | Cl | ClH
reactant | tert-BuOMe | C(C)(C)(C)OC | C5H12O
solvent | THF | 25.0 mL | C1CCOC1 | C4H8O
product | (1R*,3R*,4R*)-4-Azido-3-methylcyclohexanamine hydrochloride | 1.8 g | Cl.N(=[N+]=[N-])[C@H]1[C@@H](C[C@@H](CC1)N)C | InChI=1S/C7H14N4.ClH/c1-5-4-6(8)2-3-7(5)10-11-9;/h5-7H,2-4,8H2,1H3;1H/t5-,6-,7-;/m1./s1
